US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone
To a stirred solution of (R)-tert-butyl(1-(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (106 mg, 0.199 mmol) in dichloromethane (DCM) (3 mL) was added TFA (3 mL, 38.9 mmol) dropwise with continuous stirring. The reaction was stirred at room temperature under nitrogen for 1 hr. LCMS showed the reaction was complete with no starting material remaining. The reaction mixture was concentrated in vacuo before being dissolved in MeOH and purified by SPE on sulfonic acid (SCX) 5 g, first washing with MeOH and then eluting using a 10% NH3/MeOH solution to give the free base of the product. The appropriate fractions were combined and evaporated in vacuo before being azeotroped with cHex and dried on the high vacuum line to give the required product (69 mg) as a white solid.

reactant | (R)-tert-butyl(1-(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 0.199 mmol, 106 mg | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=CN=C(C3)OC)N2CC)C)C=C1)=O | C29H36N6O4
reactant | TFA | 38.9 mmol, 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 69 mg | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=CN=C(C3)OC)N2CC)C)C=C1 | C24H28N6O2
